US07582673B2
To a solution of 4-cyanobenzene-1,2-diamine (1 mmol) in pyridine (4 mL), benzothiophene-2-sulfonyl chloride (2.2 mmol) was added in small portions. The reaction mixture was then heated at 80° C. with stirring until the reaction was complete as determined by TLC or LC-MS. The reaction mixture was then diluted with ethyl acetate (20 mL). The organic phase was washed with 10% aqueous HCl solution (15 mL), water (15 mL) and brine (5 mL). The organic phase was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue obtained was purified by flash column chromatography eluting with DCM/EtOAc to obtain 184 mg of N,N′-(4-cyano-1,2-phenylene)bis(1-benzothiophene-2-sulfonamide) as a solid.

reactant | 4-cyanobenzene-1,2-diamine | 1 mmol | C(#N)C=1C=C(C(=CC1)N)N | C7H7N3
reactant | benzothiophene-2-sulfonyl chloride | 2.2 mmol | S1C(=CC2=C1C=CC=C2)S(=O)(=O)Cl | C8H5ClO2S2
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | N,N′-(4-cyano-1,2-phenylene)bis(1-benzothiophene-2-sulfonamide) | 184 mg | C(#N)C1=CC(=C(C=C1)NS(=O)(=O)C=1SC2=C(C1)C=CC=C2)NS(=O)(=O)C=2SC1=C(C2)C=CC=C1 | C23H15N3O4S4
